US04119710
1-(4'-Amino-3'-bromo-5'-cyano-phenyl)-2-(hydroxy-tert.butylamino)-ethanol,
m.p. of the hydrochloride: 221°-222° C., was prepared from 4'-amino-3'-bromo-5'-cyano-2-(hydroxy-tert.butylamino)-acetophenone analogous to Example 48.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-bromo-5'-cyano-2-(hydroxy-tert.butylamino)-acetophenone | NC1=C(C=C(C=C1C#N)C(CN(C(C)(C)C)O)=O)Br | C13H16BrN3O2
product | 1-(4'-Amino-3'-bromo-5'-cyano-phenyl)-2-(hydroxy-tert.butylamino)-ethanol | NC1=C(C=C(C=C1C#N)C(CN(C(C)(C)C)O)O)Br | C13H18BrN3O2
